US04895860
Step (3) Preparation of 5-Bromo-3-indolylacetonitrile
According to the procedure of C. Huebner et al., J. Am. Chem. Soc., 75, 5887 (1953), (5-bromo-3-indolylmethyl)-trimethylammonium methyl sulfate (41.6 g, 0.11 mol) was added to a solution of potassium cyanide (21.49 g, 0.33 mol) in water (215 mL) and stirred at 60°-70° C. for 1 hour. The reaction was cooled to room temperature, extracted with ether (2×400 mL), washed with saturated NaHCO3, brine, dried (MgSO4), and concentrated under reduced pressure to yield 23.4 g (90%) of product as a white solid.

reactant | (5-bromo-3-indolylmethyl)-trimethylammonium methyl sulfate | 0.11 mol, 41.6 g | COS(=O)(=O)[O-].BrC=1C=C2C(=CNC2=CC1)C[N+](C)(C)C
reactant | potassium cyanide | 0.33 mol, 21.49 g | [C-]#N.[K+]
solvent | water | 215 mL | O | H2O
product | 5-Bromo-3-indolylacetonitrile | 23.4 g, 90% | BrC=1C=C2C(=CNC2=CC1)CC#N | C10H7BrN2
